US07411072B2
5-(3-Methylsulfanyl-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene
Following procedures as described in Example 219, mix 5-bromomethylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (1 equivalent), 4,4,5,5-tetramethyl-2-(3-methylsulfanyl-phenyl)-[1,3,2]dioxaborolane (1.25 equivalents), 2N Na2CO3 (2 equivalents) and tetrakistriphenylphosphine palladium (0.05 equivalents)in a suitable solvent. Purify the product by silica gel chromatography to obtain a 79% yield of the title compound. MS(ES)=329(+)

reactant | 5-bromomethylene-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 1 equivalent | BrC=C1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C16H13Br
reactant | 4,4,5,5-tetramethyl-2-(3-methylsulfanyl-phenyl)-[1,3,2]dioxaborolane | 1.25 equivalents | CC1(OB(OC1(C)C)C1=CC(=CC=C1)SC)C | C13H19BO2S
reactant | Na2CO3 | 2N, 2 equivalents | C(=O)([O-])[O-].[Na+].[Na+]
product | 5-(3-Methylsulfanyl-benzylidene)-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 79% yield | CSC=1C=C(C=C2C3=C(CCC4=C2C=CC=C4)C=CC=C3)C=CC1 | C23H20S
